US07947689B2
2-(4,5-Dimethyl-thiophen-2-yl)-ethylamine
In close analogy to the procedure described above, 2,3-Dimethyl-5-(2-nitro-vinyl)-thiophene is reacted with lithium aluminium hydride to provide the title compound.

reactant | 2,3-Dimethyl-5-(2-nitro-vinyl)-thiophene | CC=1SC(=CC1C)C=C[N+](=O)[O-] | C8H9NO2S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(4,5-Dimethyl-thiophen-2-yl)-ethylamine | Yield: 55% | CC=1C=C(SC1C)CCN | C8H13NS
